US09353126B2
3-Chloro-5,6-dihydrobenzo[h]cinnoline was heated at 100° C. in a mixture of anhydrous pyridine (30 mL) and anhydrous hydrazine (5 mL) for 3.25 h. The solvent was removed under vacuum and the residue was partitioned between chloroform and 1M aqueous potassium carbonate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was triturated with diethyl ether and filtered to give 3-hydrazinyl-5,6-dihydrobenzo[h]cinnoline as a beige solid; 1H NMR (DMSO-d6, 300 MHz) 8.17 (d, 1H), 7.91 (br s, 1H), 7.28 (m, 3H), 6.87 (s, 1H), 4.34 (br s, 2H), 2.92 (m, 4H) ppm; 13C NMR (DMSO-d6, 75 MHz) 162.49, 147.92, 137.95, 137.39, 132.97, 128.87, 128.75, 127.56, 123.59, 110.55, 28.01, 27.66; MS (ES) 213 (M+H).

reactant | 3-Chloro-5,6-dihydrobenzo[h]cinnoline | ClC=1N=NC=2C3=C(CCC2C1)C=CC=C3 | C12H9ClN2
reactant | hydrazine | 5 mL | NN | H4N2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 3-hydrazinyl-5,6-dihydrobenzo[h]cinnoline | N(N)C=1N=NC=2C3=C(CCC2C1)C=CC=C3 | C12H12N4
